US08242260B2
To a solution of (S)-methyl 1-(4-(4-bromo-2-cyclopropyl-1H-imidazol-4-yl)pyrimidin-2-ylamino)propan-2-ylcarbamate (I-1b, 0.59 g, 1.5 mmol) in DME (15 mL) was added a solution of 5-chloro-2-fluoro-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline (SM-5, (˜12 mL, 0.25 M solution in dioxane; 3.0 mmol) and aqueous Na2CO3 solution (6 mL, 2.0 M, 12.0 mL). The resulting mixture was sparged with nitrogen, and Pd(PPh3)4 (87 mg, 0.075 mmol) was added. The reaction mixture was sealed and subjected to microwave irradiation at 120° C. for about 20 minutes. The reaction was allowed to cool to room temperature and partitioned upon standing. The layers were separated and the organic portion was concentrated, dissolved in EtOAc (150 mL), washed with water (50 mL), followed by extraction with aqueous 0.01 M HCl solution (2×100 mL) and aqueous 0.02 M HCl solution (2×100 mL). The combined acidic aqueous portions were neutralized with saturated aqueous NaHCO3 solution, and extracted with EtOAc (2×225 mL). The combined organic portions were washed with brine, dried (Na2SO4), and concentrated to yield (S)-methyl 1-(4-(4-(3-amino-5-chloro-2-fluorophenyl)-2-cyclopropyl-1H-imidazol-5-yl)pyrimidin-2-ylamino)propan-2-ylcarbamate (530 mg) which was carried forward without further purification. LCMS(m/z) 460.2 (MH+), tR=0.57 minute.

reactant | (S)-methyl 1-(4-(4-bromo-2-cyclopropyl-1H-imidazol-4-yl)pyrimidin-2-ylamino)propan-2-ylcarbamate | 1.5 mmol, 0.59 g | BrC1(N=C(NC1)C1CC1)C1=NC(=NC=C1)NC[C@H](C)NC(OC)=O | C15H21BrN6O2
reactant | 5-chloro-2-fluoro-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | ClC=1C=C(C(=C(N)C1)F)B1OC(C(O1)(C)C)(C)C | C12H16BClFNO2
reactant | Na2CO3 | 2.0 M, 6 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 15 mL | COCCOC | C4H10O2
solvent | dioxane | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.075 mmol, 87 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (S)-methyl 1-(4-(4-(3-amino-5-chloro-2-fluorophenyl)-2-cyclopropyl-1H-imidazol-5-yl)pyrimidin-2-ylamino)propan-2-ylcarbamate | 530 mg | NC=1C(=C(C=C(C1)Cl)C=1N=C(NC1C1=NC(=NC=C1)NC[C@H](C)NC(OC)=O)C1CC1)F | C21H23ClFN7O2
